### PR TITLE
Add Erdős Problem 106 (packing squares in a square), link the formal disproof

### LINKED ISSUE #337: Erdős Problem 106: pack squares inside square
### What is the conjecture
    
https://www.erdosproblems.com/106

  Draw $n$ squares inside the unit square with no common interior point. Let $f(n)$ be the maximum possible sum of the side-lengths of the squares. Is $f(k^2+1)=k$?

### Prerequisites needed
Needs some notion of a square in $R^2$.

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #337.

### What changed
Adds `FormalConjectures/ErdosProblems/106.lean`:
- `Square` (centre, unit side direction, side length), `Square.carrier`, `IsPacking` (squares inside the closed unit square with pairwise disjoint topological interiors), `f n` (supremum of the total side length over packings of `n` squares) and `g n` (same, axis-parallel squares).
- `erdos_106` (`research solved`, `answer(False)`): `∀ k > 0, f (k² + 1) = k`. Disproved by Claude Opus 5 (prompted by Silverstein) via `f 17 > 4`; linked to plby/lean-proofs `Erdos106.not_erdos_106` (Codex).
- `erdos_106.variants.seventeen`: `4 < f 17`, linked to `Erdos106.four_lt_f_seventeen`.
- `erdos_106.variants.ten` (`research open`): whether `f 10 = 3`.
- `erdos_106.variants.axis_parallel` (`research solved`): Baek–Koizumi–Ueoro [BKU24], `g (k² + 2c + 1) = k + c/k` for `-k < c < k`.

`k = 0` is excluded from the main statement since `f 1 = 1` trivially.

### Why
Issue #337 is up for grabs; the problem is now disproved (formal_status `Lean` on erdosproblems.com). The plby proof is single-file, Mathlib-only and axiom-clean.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos106.not_erdos_106` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms. plby's packings use an explicit "open carrier" in local coordinates instead of the topological interior, so the bridge proves that interior points of a square have both local coordinates strictly inside `(-s/2, s/2)` (an interior point can be pushed along a side direction), which turns plby's 17-square packing into an `IsPacking`; the upper bound `side ≤ 2` giving `BddAbove` is reused from plby:

<details>
<summary>Bridge</summary>

```lean
open Erdos106

namespace Bridge106

/-- A genuine plby square as a square of this repository. -/
def toFC (S : Erdos106Plby.Square) (h : S.IsGenuine) : Square :=
  ⟨S.center, S.direction, S.side, h.1, h.2⟩

/-- A square of this repository as a plby square. -/
def toPlby (S : Square) : Erdos106Plby.Square :=
  ⟨S.center, S.direction, S.side⟩

lemma toPlby_isGenuine (S : Square) : (toPlby S).IsGenuine := ⟨S.side_pos, S.direction_unit⟩

lemma carrier_toFC (S : Erdos106Plby.Square) (h : S.IsGenuine) :
    (toFC S h).carrier = S.carrier := rfl

lemma carrier_toPlby (S : Square) : (toPlby S).carrier = S.carrier := rfl

lemma box_eq : Erdos106Plby.box 1 = Set.Icc (0 : ℝ) 1 ×ˢ Set.Icc (0 : ℝ) 1 := by
  ext p
  simp only [Erdos106Plby.box, Set.mem_ofPred_eq, Set.mem_prod, Set.mem_Icc]
  tauto

/-- A point of the interior of a square has local coordinate strictly less than half the side
in absolute value, for any unit direction `v` whose coordinate `L` is bounded on the square. -/
lemma abs_lt_of_mem_interior (S : Square) {p : ℝ × ℝ} (hp : p ∈ interior S.carrier)
    (v : ℝ × ℝ) (hv : v.1 ^ 2 + v.2 ^ 2 = 1) (L : ℝ × ℝ → ℝ)
    (hL : ∀ q, L q = (q.1 - S.center.1) * v.1 + (q.2 - S.center.2) * v.2)
    (hcar : ∀ q ∈ S.carrier, |L q| ≤ S.side / 2) : |L p| < S.side / 2 := by
  obtain ⟨ε, hε, hball⟩ := Metric.mem_nhds_iff.1 (mem_interior_iff_mem_nhds.1 hp)
  by_contra hcon
  push Not at hcon
  have hv1 : |v.1| ≤ 1 := by
    rw [← sq_le_one_iff_abs_le_one]
    nlinarith
  have hv2 : |v.2| ≤ 1 := by
    rw [← sq_le_one_iff_abs_le_one]
    nlinarith
  set t : ℝ := if 0 ≤ L p then ε / 2 else -(ε / 2) with ht
  have htabs : |t| = ε / 2 := by
    rw [ht]
    split_ifs <;> simp [abs_of_pos, hε]
  set q : ℝ × ℝ := (p.1 + t * v.1, p.2 + t * v.2) with hq
  have hLq : L q = L p + t := by
    rw [hL, hL, hq]
    simp only
    linear_combination t * hv
  have hqball : q ∈ Metric.ball p ε := by
    rw [Metric.mem_ball, Prod.dist_eq, hq]
    simp only [Real.dist_eq, add_sub_cancel_left, abs_mul, htabs]
    apply max_lt
    · nlinarith [abs_nonneg v.1]
    · nlinarith [abs_nonneg v.2]
  have hqle := hcar q (hball hqball)
  rw [hLq] at hqle
  rw [ht] at hqle
  split_ifs at hqle with h0
  · rw [abs_of_nonneg h0] at hcon
    rw [abs_of_nonneg (by linarith)] at hqle
    linarith
  · push Not at h0
    rw [abs_of_neg h0] at hcon
    rw [abs_of_neg (by linarith)] at hqle
    linarith

/-- The local coordinates of a point of a square are bounded by half the side. -/
lemma coords_of_mem_carrier (S : Square) {q : ℝ × ℝ} (hq : q ∈ S.carrier) :
    |(q.1 - S.center.1) * S.direction.1 + (q.2 - S.center.2) * S.direction.2| ≤ S.side / 2 ∧
    |(q.1 - S.center.1) * (-S.direction.2) + (q.2 - S.center.2) * S.direction.1| ≤
      S.side / 2 := by
  obtain ⟨x, y, hx, hy, rfl⟩ := hq
  simp only
  have h1 : (S.center.1 + x * S.direction.1 - y * S.direction.2 - S.center.1) * S.direction.1 +
      (S.center.2 + x * S.direction.2 + y * S.direction.1 - S.center.2) * S.direction.2 = x := by
    linear_combination x * S.direction_unit
  have h2 : (S.center.1 + x * S.direction.1 - y * S.direction.2 - S.center.1) *
      (-S.direction.2) +
      (S.center.2 + x * S.direction.2 + y * S.direction.1 - S.center.2) * S.direction.1 = y := by
    linear_combination y * S.direction_unit
  rw [h1, h2]
  exact ⟨hx, hy⟩

/-- Interior points of a square of this repository are in plby's open carrier. -/
lemma mem_openCarrier_of_mem_interior (S : Erdos106Plby.Square) (h : S.IsGenuine) {p : ℝ × ℝ}
    (hp : p ∈ interior (toFC S h).carrier) : p ∈ S.openCarrier := by
  have hunit : S.direction.1 ^ 2 + S.direction.2 ^ 2 = 1 := h.2
  have h1 := abs_lt_of_mem_interior (toFC S h) hp (toFC S h).direction hunit
    (fun q => (q.1 - S.center.1) * S.direction.1 + (q.2 - S.center.2) * S.direction.2)
    (fun q => rfl) (fun q hq => (coords_of_mem_carrier _ hq).1)
  have h2 := abs_lt_of_mem_interior (toFC S h) hp (-S.direction.2, S.direction.1)
    (by simp only; linear_combination hunit)
    (fun q => (q.1 - S.center.1) * (-S.direction.2) + (q.2 - S.center.2) * S.direction.1)
    (fun q => rfl) (fun q hq => (coords_of_mem_carrier _ hq).2)
  refine ⟨_, _, h1, h2, ?_⟩
  ext
  · simp only [Erdos106Plby.Square.point]
    linear_combination (-p.1 + S.center.1) * hunit
  · simp only [Erdos106Plby.Square.point]
    linear_combination (-p.2 + S.center.2) * hunit

lemma isPacking_toFC {n : ℕ} (P : Fin n → Erdos106Plby.Square)
    (hP : Erdos106Plby.IsPackingIn 1 P) : IsPacking (fun i => toFC (P i) (hP.1 i)) := by
  refine ⟨fun i => ?_, fun i j hij => ?_⟩
  · rw [carrier_toFC, ← box_eq]
    exact hP.2.1 i
  · refine Set.disjoint_left.2 fun p hpi hpj => ?_
    exact Set.disjoint_left.1 (hP.2.2 i j hij) (mem_openCarrier_of_mem_interior _ _ hpi)
      (mem_openCarrier_of_mem_interior _ _ hpj)

lemma bddAbove (n : ℕ) : BddAbove {t | ∃ P : Fin n → Square, IsPacking P ∧ t = ∑ i, (P i).side} := by
  refine ⟨2 * n, ?_⟩
  rintro t ⟨P, hP, rfl⟩
  calc ∑ i, (P i).side ≤ ∑ _i : Fin n, (2 : ℝ) := by
        refine Finset.sum_le_sum fun i _ => ?_
        have := Erdos106Plby.side_le_two_of_mem_unit_box (toPlby (P i)) (toPlby_isGenuine _)
          (by rw [carrier_toPlby, box_eq]; exact hP.1 i)
        exact this
    _ = 2 * n := by simp [mul_comm]

theorem seventeen_bridge : type_of% erdos_106.variants.seventeen := by
  obtain ⟨P, hP, hlt⟩ := Erdos106Plby.exists_seventeen_square_packing
  apply lt_csSup_of_lt (bddAbove 17)
  · exact ⟨fun i => toFC (P i) (hP.1 i), isPacking_toFC P hP, rfl⟩
  · exact hlt

theorem erdos_106_bridge : type_of% erdos_106 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  have := h 4 (by norm_num)
  norm_num at this
  linarith [seventeen_bridge]

end Bridge106
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«106»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/106.lean [hunk 1]
```diff
@@ -0,0 +1,130 @@
...
+def Square.carrier (S : Square) : Set (ℝ × ℝ) :=
+  {p | ∃ x y : ℝ, |x| ≤ S.side / 2 ∧ |y| ≤ S.side / 2 ∧
+    p = (S.center.1 + x * S.direction.1 - y * S.direction.2,
+      S.center.2 + x * S.direction.2 + y * S.direction.1)}
+
+/-- A family of squares is a packing of the unit square if each square lies inside the unit square
+and no two of them have a common interior point. -/
+def IsPacking {n : ℕ} (P : Fin n → Square) : Prop :=
+  (∀ i, (P i).carrier ⊆ Set.Icc 0 1 ×ˢ Set.Icc 0 1) ∧
+    Pairwise fun i j => Disjoint (interior (P i).carrier) (interior (P j).carrier)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/106.lean:66]: is this a duplicate of Mathoverflow/34145.lean's rectangle packing; consider using common planar packing notion for ForMathlib
